US06768027B2
4-Azidobenzaldehyde (29.42 g, 0.2 mol) and propionaldehyde (12.22 g, 0.2 mol) were dissolved in a solvent mixture of isopropyl alcohol (100 g) and pure water (50 g). Under cooling in an ice bath, sodium hydroxide (2 g) dissolved in pure water (20 g) was added to the solution, and the mixture was stirred for two hours. Propionaldehyde (12.22 g, 0.2 mol) was added again to the mixture, and the resultant mixture was stirred for a further three hours. The formed precipitates were collected through filtration and dried, to thereby yield 23.14 g of p-azido-2-methylcinnamaldehyde as yellow crystals (yield: 62%). The compound thus obtained was identified on the basis of the 1H-NMR measurements shown in Table 1.

reactant | 4-Azidobenzaldehyde | 0.2 mol, 29.42 g | N(=[N+]=[N-])C1=CC=C(C=O)C=C1 | C7H5N3O
reactant | propionaldehyde | 0.2 mol, 12.22 g | C(CC)=O | C3H6O
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | Propionaldehyde | 0.2 mol, 12.22 g | C(CC)=O | C3H6O
reactant | isopropyl alcohol | 100 g | C(C)(C)O | C3H8O
solvent | water | 20 g | O | H2O
solvent | water | 50 g | O | H2O
product | p-azido-2-methylcinnamaldehyde | yield 23.14 g, yield: 62% | N(=[N+]=[N-])C1=CC(=C(C=CC=O)C=C1)C | C10H9N3O
